US05442064
4-Carboxy-1-(4-cyanophenyl)-piperidine
1-(4-cyanophenyl)-4-tert.butyloxycarbonylamino-piperidine By reacting 4-fluorobenzonitrile with 4-tert.butyloxy-carbonylamino-piperidine

reactant | 1-(4-cyanophenyl)-4-tert.butyloxycarbonylamino-piperidine | C(#N)C1=CC=C(C=C1)N1CCC(CC1)NC(=O)OC(C)(C)C | C17H23N3O2
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-tert.butyloxy-carbonylamino-piperidine | C(C)(C)(C)OC1CCN(CC1)N=C=O | C10H18N2O2
product | 4-Carboxy-1-(4-cyanophenyl)-piperidine | C(=O)(O)C1CCN(CC1)C1=CC=C(C=C1)C#N | C13H14N2O2
